US07314883B2
(±)-3-(3-Cyano-1H-indol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester
A stirred solution of 2-amino-3-(3-cyano-1H-indol-5-yl)-propionic acid methyl ester (25 mg, 0.11 mmol) in tetrahydrofuran (3 mL) at 0° C. was treated with carbonyl diimidazole (17.5 mg, 1.1 equiv.). The reaction was stirred for 5 min at 0° C., warmed to room temperature, stirred 10 min, and treated with 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one (25 mg, 1.1 equiv.). The mixture was stirred at room temperature overnight. The solvent was evaporated and the residue purified by column chromatography to give 40 mg (75%) as a white powder. LC/MS: tR=1.37 min, 501.33 (MH)+.

reactant | 2-amino-3-(3-cyano-1H-indol-5-yl)-propionic acid methyl ester | 0.11 mmol, 25 mg | COC(C(CC=1C=C2C(=CNC2=CC1)C#N)N)=O | C13H13N3O2
reactant | carbonyl diimidazole | 17.5 mg, 1.1 equiv. | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 3-piperidin-4-yl-3,4-dihydro-1H-quinazolin-2-one | 25 mg, 1.1 equiv. | N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C13H17N3O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (±)-3-(3-Cyano-1H-indol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester | COC(C(CC=1C=C2C(=CNC2=CC1)C#N)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C27H28N6O4
